US04958026
111.0 g of 4-benzyloxy-3-nitrobenzyl chloride and 21.6 g of sodium cyanide in 800 ml of dimethyl sulfoxide are stirred for 2.5 hours at 40° C., then poured into 1.6 1 of ice water. The solid product is recrystallized from ethanol, yielding 95.0 g of (4-benzyloxy-3-nitrophenyl)acetonitrile, mp 91°-97° C.

reactant | 4-benzyloxy-3-nitrobenzyl chloride | 111.0 g | C(C1=CC=CC=C1)OC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C14H12ClNO3
reactant | sodium cyanide | 21.6 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 800 ml | CS(=O)C | C2H6OS
product | (4-benzyloxy-3-nitrophenyl)acetonitrile | 95.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC#N)[N+](=O)[O-] | C15H12N2O3
